US07943669B2
Step E: [4-(3-Bromo-5-hydroxy-benzylsulfanyl)-2-methyl-phenoxy]-acetic Acid Ethyl Ester
{4-[3-Bromo-5-(tert-butyl-dimethyl-silanyloxy)-benzylsulfanyl]-2-methylphenoxy}-acetic acid ethyl ester 7 g, 13.3 mmol) was dissolved in THF under an atmosphere of nitrogen. Tetrabutylammonium fluoride 1 N in THF (15 mL) was added, and the reaction mixture was stirred at 60° C. for 2 h. Saturated sodium carbonate and water were added together with ethyl acetate, and the organic phase was separated. The organic phase was washed with water, dried, and evaporated to dryness. Yield: 3.2 g. HPLC-MS: m/z: 435.4 (M+Na); Rt: 2.22 min.

reactant | {4-[3-Bromo-5-(tert-butyl-dimethyl-silanyloxy)-benzylsulfanyl]-2-methylphenoxy}-acetic acid ethyl ester | 13.3 mmol, 7 g | C(C)OC(COC1=C(C=C(C=C1)SCC1=CC(=CC(=C1)O[Si](C)(C)C(C)(C)C)Br)C)=O | C24H33BrO4SSi
reactant | Tetrabutylammonium fluoride | 1 N | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [4-(3-Bromo-5-hydroxy-benzylsulfanyl)-2-methyl-phenoxy]-acetic Acid Ethyl Ester | C(C)OC(COC1=C(C=C(C=C1)SCC1=CC(=CC(=C1)O)Br)C)=O | C18H19BrO4S
